*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-23 06:06:32
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L134_0 CTX_L30_0 63.2916a
Cext_2 CTX_L134_0 CTX_L30_1 8.84741a
Cext_3 CTX_L134_0 CTX_L30_2 17.9889a
Cext_4 CTX_L134_0 CTX_L30_3 17.5443a
Cext_5 CTX_L134_0 FILL_L10_0 0.928776a
Cext_6 CTX_L134_0 FILL_L10_1 0.147421a
Cext_7 CTX_L134_0 FILL_L10_12 1.2755a
Cext_8 CTX_L134_0 FILL_L10_13 3.75148a
Cext_9 CTX_L134_0 FILL_L10_14 7.50297a
Cext_10 CTX_L134_0 FILL_L10_15 7.50297a
Cext_11 CTX_L134_0 FILL_L10_2 2.2981a
Cext_12 CTX_L134_0 FILL_L10_3 4.59621a
Cext_13 CTX_L134_0 FILL_L10_4 4.59621a
Cext_14 CTX_L134_0 FILL_L10_5 3.96912a
Cext_15 CTX_L134_0 FILL_L10_6 18.6167a
Cext_16 CTX_L134_0 FILL_L10_7 24.9715a
Cext_17 CTX_L134_0 FILL_L10_8 31.3264a
Cext_18 CTX_L134_0 FILL_L10_9 29.5179a
Cext_19 CTX_L134_0 FILL_L50_0 93.991a
Cext_20 CTX_L134_0 FILL_L50_1 94.2884a
Cext_21 CTX_L134_0 FILL_L50_2 94.2884a
Cext_22 CTX_L134_0 FILL_L50_3 7.20776a
Cext_23 CTX_L134_0 FILL_L50_4 45.0981a
Cext_24 CTX_L134_0 FILL_L50_5 45.0981a
Cext_25 CTX_L134_0 FILL_L50_6 45.0981a
Cext_26 CTX_L134_0 FILL_L50_7 1.80393a
Cext_27 CTX_L134_0 N 14.5823a
Cext_28 CTX_L134_0 P 17.0754a
Cext_29 CTX_L134_0 VSUBS 853.322a
Cext_30 CTX_L30_0 CTX_L30_1 1.26652f
Cext_31 CTX_L30_0 CTX_L8_0 72.2916a
Cext_32 CTX_L30_0 FILL_L10_0 70.9863a
Cext_33 CTX_L30_0 FILL_L10_1 438.669a
Cext_34 CTX_L30_0 FILL_L10_2 438.669a
Cext_35 CTX_L30_0 FILL_L10_3 438.669a
Cext_36 CTX_L30_0 FILL_L10_4 367.682a
Cext_37 CTX_L30_0 FILL_L50_0 473.014a
Cext_38 CTX_L30_0 FILL_L50_1 473.956a
Cext_39 CTX_L30_0 FILL_L50_2 473.956a
Cext_40 CTX_L30_0 FILL_L50_3 56.413a
Cext_41 CTX_L30_0 VSUBS 818.907a
Cext_42 CTX_L30_1 CTX_L30_2 279.622a
Cext_43 CTX_L30_1 CTX_L8_0 16.8702a
Cext_44 CTX_L30_1 FILL_L10_0 8.03705a
Cext_45 CTX_L30_1 FILL_L10_1 82.7344a
Cext_46 CTX_L30_1 FILL_L10_2 82.7344a
Cext_47 CTX_L30_1 FILL_L10_3 82.7344a
Cext_48 CTX_L30_1 FILL_L10_4 74.6973a
Cext_49 CTX_L30_1 FILL_L10_5 4.06814a
Cext_50 CTX_L30_1 FILL_L10_6 41.878a
Cext_51 CTX_L30_1 FILL_L10_7 41.878a
Cext_52 CTX_L30_1 FILL_L10_8 41.878a
Cext_53 CTX_L30_1 FILL_L10_9 37.8098a
Cext_54 CTX_L30_1 FILL_L50_0 281.029a
Cext_55 CTX_L30_1 FILL_L50_1 281.218a
Cext_56 CTX_L30_1 FILL_L50_2 281.218a
Cext_57 CTX_L30_1 FILL_L50_3 18.7396a
Cext_58 CTX_L30_1 FILL_L8_0 0.311664a
Cext_59 CTX_L30_1 FILL_L8_1 3.20831a
Cext_60 CTX_L30_1 FILL_L8_2 3.20831a
Cext_61 CTX_L30_1 FILL_L8_3 3.20831a
Cext_62 CTX_L30_1 FILL_L8_4 2.89664a
Cext_63 CTX_L30_1 VSUBS 309.867a
Cext_64 CTX_L30_2 CTX_L30_3 4.30617f
Cext_65 CTX_L30_2 CTX_L8_0 1.43371a
Cext_66 CTX_L30_2 CTX_L8_1 0.582334a
Cext_67 CTX_L30_2 FILL_L10_5 26.2795a
Cext_68 CTX_L30_2 FILL_L10_6 224.529a
Cext_69 CTX_L30_2 FILL_L10_7 224.529a
Cext_70 CTX_L30_2 FILL_L10_8 224.529a
Cext_71 CTX_L30_2 FILL_L10_9 198.249a
Cext_72 CTX_L30_2 FILL_L50_0 89.3702a
Cext_73 CTX_L30_2 FILL_L50_1 89.3702a
Cext_74 CTX_L30_2 FILL_L50_2 89.3702a
Cext_75 CTX_L30_2 FILL_L50_3 3.57481a
Cext_76 CTX_L30_2 FILL_L50_4 8.71257a
Cext_77 CTX_L30_2 FILL_L50_5 8.71257a
Cext_78 CTX_L30_2 FILL_L50_6 8.71257a
Cext_79 CTX_L30_2 FILL_L50_7 0.348503a
Cext_80 CTX_L30_2 FILL_L8_0 1.61026a
Cext_81 CTX_L30_2 FILL_L8_1 3.22052a
Cext_82 CTX_L30_2 FILL_L8_2 3.22052a
Cext_83 CTX_L30_2 FILL_L8_3 3.22052a
Cext_84 CTX_L30_2 FILL_L8_4 1.61026a
Cext_85 CTX_L30_2 VSUBS 224.571a
Cext_86 CTX_L30_3 CTX_L8_0 1.23474a
Cext_87 CTX_L30_3 CTX_L8_1 0.651229a
Cext_88 CTX_L30_3 FILL_L10_5 16.6709a
Cext_89 CTX_L30_3 FILL_L10_6 125.617a
Cext_90 CTX_L30_3 FILL_L10_7 125.617a
Cext_91 CTX_L30_3 FILL_L10_8 125.617a
Cext_92 CTX_L30_3 FILL_L10_9 108.946a
Cext_93 CTX_L30_3 FILL_L50_0 11.3472a
Cext_94 CTX_L30_3 FILL_L50_1 11.3472a
Cext_95 CTX_L30_3 FILL_L50_2 11.3472a
Cext_96 CTX_L30_3 FILL_L50_3 0.453888a
Cext_97 CTX_L30_3 FILL_L50_4 14.6777a
Cext_98 CTX_L30_3 FILL_L50_5 14.6777a
Cext_99 CTX_L30_3 FILL_L50_6 14.6777a
Cext_100 CTX_L30_3 FILL_L50_7 0.587106a
Cext_101 CTX_L30_3 FILL_L8_0 1.61026a
Cext_102 CTX_L30_3 FILL_L8_1 3.22052a
Cext_103 CTX_L30_3 FILL_L8_2 3.22052a
Cext_104 CTX_L30_3 FILL_L8_3 3.22052a
Cext_105 CTX_L30_3 FILL_L8_4 1.61026a
Cext_106 CTX_L30_3 P 4.30617f
Cext_107 CTX_L30_3 VSUBS 45.1251a
Cext_108 CTX_L30_6 CTX_L8_1 59.2945a
Cext_109 CTX_L30_6 FILL_L10_10 6.03604a
Cext_110 CTX_L30_6 FILL_L10_11 6.03604a
Cext_111 CTX_L30_6 FILL_L10_12 47.2926a
Cext_112 CTX_L30_6 FILL_L10_13 331.653a
Cext_113 CTX_L30_6 FILL_L10_14 327.329a
Cext_114 CTX_L30_6 FILL_L10_15 284.361a
Cext_115 CTX_L30_6 FILL_L10_5 0.17043a
Cext_116 CTX_L30_6 FILL_L10_6 2.5985a
Cext_117 CTX_L30_6 FILL_L10_7 1.75442a
Cext_118 CTX_L30_6 FILL_L10_8 1.75442a
Cext_119 CTX_L30_6 FILL_L10_9 1.50379a
Cext_120 CTX_L30_6 FILL_L50_4 84.4357a
Cext_121 CTX_L30_6 FILL_L50_5 84.4357a
Cext_122 CTX_L30_6 FILL_L50_6 84.4357a
Cext_123 CTX_L30_6 FILL_L50_7 3.37743a
Cext_124 CTX_L30_6 FILL_L8_1 1.09968a
Cext_125 CTX_L30_6 FILL_L8_10 0.550031a
Cext_126 CTX_L30_6 FILL_L8_11 0.550031a
Cext_127 CTX_L30_6 FILL_L8_12 0.550031a
Cext_128 CTX_L30_6 FILL_L8_13 0.275016a
Cext_129 CTX_L30_6 FILL_L8_2 0.307804a
Cext_130 CTX_L30_6 FILL_L8_3 0.307804a
Cext_131 CTX_L30_6 FILL_L8_4 0.307804a
Cext_132 CTX_L30_6 FILL_L8_5 0.187011a
Cext_133 CTX_L30_6 FILL_L8_6 2.02737a
Cext_134 CTX_L30_6 FILL_L8_7 2.02737a
Cext_135 CTX_L30_6 FILL_L8_8 0.550031a
Cext_136 CTX_L30_6 FILL_L8_9 0.550031a
Cext_137 CTX_L30_6 N 153.322a
Cext_138 CTX_L30_6 VSUBS 1.06602f
Cext_139 CTX_L8_0 FILL_L10_0 25.5917a
Cext_140 CTX_L8_0 FILL_L10_1 183.178a
Cext_141 CTX_L8_0 FILL_L10_2 183.178a
Cext_142 CTX_L8_0 FILL_L10_3 183.178a
Cext_143 CTX_L8_0 FILL_L10_4 157.586a
Cext_144 CTX_L8_0 FILL_L50_0 13.3239a
Cext_145 CTX_L8_0 FILL_L50_1 16.3943a
Cext_146 CTX_L8_0 FILL_L50_2 16.3943a
Cext_147 CTX_L8_0 FILL_L50_3 0.411859a
Cext_148 CTX_L8_0 FILL_L50_4 0.730158a
Cext_149 CTX_L8_0 FILL_L50_5 2.19047a
Cext_150 CTX_L8_0 FILL_L50_6 2.19047a
Cext_151 CTX_L8_0 FILL_L8_0 3.66876a
Cext_152 CTX_L8_0 FILL_L8_1 37.7666a
Cext_153 CTX_L8_0 FILL_L8_2 37.7666a
Cext_154 CTX_L8_0 FILL_L8_3 37.7666a
Cext_155 CTX_L8_0 FILL_L8_4 34.0979a
Cext_156 CTX_L8_0 N 0.860391a
Cext_157 CTX_L8_0 P 0.982992a
Cext_158 CTX_L8_0 VSUBS 1.66414f
Cext_159 CTX_L8_1 FILL_L10_12 7.40439a
Cext_160 CTX_L8_1 FILL_L10_13 78.4159a
Cext_161 CTX_L8_1 FILL_L10_14 78.4159a
Cext_162 CTX_L8_1 FILL_L10_15 71.0115a
Cext_163 CTX_L8_1 FILL_L50_1 0.218921a
Cext_164 CTX_L8_1 FILL_L50_2 0.218921a
Cext_165 CTX_L8_1 FILL_L50_4 15.8114a
Cext_166 CTX_L8_1 FILL_L50_5 11.7347a
Cext_167 CTX_L8_1 FILL_L50_6 9.95481a
Cext_168 CTX_L8_1 FILL_L8_1 8.34834a
Cext_169 CTX_L8_1 FILL_L8_10 10.7905a
Cext_170 CTX_L8_1 FILL_L8_11 10.7905a
Cext_171 CTX_L8_1 FILL_L8_12 10.7905a
Cext_172 CTX_L8_1 FILL_L8_13 7.1217a
Cext_173 CTX_L8_1 FILL_L8_2 8.34834a
Cext_174 CTX_L8_1 FILL_L8_3 8.34834a
Cext_175 CTX_L8_1 FILL_L8_4 8.34834a
Cext_176 CTX_L8_1 FILL_L8_5 3.66876a
Cext_177 CTX_L8_1 FILL_L8_6 10.7905a
Cext_178 CTX_L8_1 FILL_L8_7 10.7905a
Cext_179 CTX_L8_1 FILL_L8_8 10.7905a
Cext_180 CTX_L8_1 FILL_L8_9 10.7905a
Cext_181 CTX_L8_1 N 0.829372a
Cext_182 CTX_L8_1 P 0.732569a
Cext_183 CTX_L8_1 VSUBS 1.50611f
Cext_184 FILL_L10_0 FILL_L10_1 49.4454a
Cext_185 FILL_L10_0 FILL_L10_5 9.49798a
Cext_186 FILL_L10_0 FILL_L50_0 1.3701a
Cext_187 FILL_L10_0 FILL_L8_0 1.38235a
Cext_188 FILL_L10_0 VSUBS 108.686a
Cext_189 FILL_L10_1 FILL_L10_2 49.4454a
Cext_190 FILL_L10_1 FILL_L10_6 97.7733a
Cext_191 FILL_L10_1 FILL_L50_0 73.2101a
Cext_192 FILL_L10_1 FILL_L8_1 14.23a
Cext_193 FILL_L10_1 VSUBS 309.257a
Cext_194 FILL_L10_10 FILL_L10_11 27.9352a
Cext_195 FILL_L10_10 FILL_L10_12 27.9352a
Cext_196 FILL_L10_10 FILL_L10_6 27.9352a
Cext_197 FILL_L10_10 FILL_L50_4 51.2455a
Cext_198 FILL_L10_10 FILL_L8_6 67.225a
Cext_199 FILL_L10_10 N 3.90476a
Cext_200 FILL_L10_10 VSUBS 76.7957a
Cext_201 FILL_L10_11 FILL_L10_13 27.9352a
Cext_202 FILL_L10_11 FILL_L10_6 27.9352a
Cext_203 FILL_L10_11 FILL_L50_4 55.1277a
Cext_204 FILL_L10_11 FILL_L8_7 67.225a
Cext_205 FILL_L10_11 N 3.90476a
Cext_206 FILL_L10_11 VSUBS 76.7957a
Cext_207 FILL_L10_12 FILL_L10_13 15.8424a
Cext_208 FILL_L10_12 FILL_L10_5 9.49798a
Cext_209 FILL_L10_12 FILL_L50_4 15.5561a
Cext_210 FILL_L10_12 FILL_L8_5 32.0171a
Cext_211 FILL_L10_12 N 2.43671a
Cext_212 FILL_L10_12 VSUBS 249.967a
Cext_213 FILL_L10_13 FILL_L10_14 97.7733a
Cext_214 FILL_L10_13 FILL_L10_7 97.7733a
Cext_215 FILL_L10_13 FILL_L50_4 32.8429a
Cext_216 FILL_L10_13 FILL_L50_5 216.433a
Cext_217 FILL_L10_13 FILL_L8_2 9.85893a
Cext_218 FILL_L10_13 FILL_L8_8 117.513a
Cext_219 FILL_L10_13 FILL_L8_9 117.513a
Cext_220 FILL_L10_13 N 25.0837a
Cext_221 FILL_L10_13 VSUBS 502.058a
Cext_222 FILL_L10_14 FILL_L10_15 97.7733a
Cext_223 FILL_L10_14 FILL_L10_8 97.7733a
Cext_224 FILL_L10_14 FILL_L50_5 62.2292a
Cext_225 FILL_L10_14 FILL_L50_6 165.203a
Cext_226 FILL_L10_14 FILL_L8_10 117.513a
Cext_227 FILL_L10_14 FILL_L8_11 117.513a
Cext_228 FILL_L10_14 FILL_L8_3 9.85893a
Cext_229 FILL_L10_14 N 25.0837a
Cext_230 FILL_L10_14 VSUBS 454.955a
Cext_231 FILL_L10_15 FILL_L10_9 88.2754a
Cext_232 FILL_L10_15 FILL_L50_6 130.878a
Cext_233 FILL_L10_15 FILL_L50_7 52.4901a
Cext_234 FILL_L10_15 FILL_L8_12 117.513a
Cext_235 FILL_L10_15 FILL_L8_13 85.4956a
Cext_236 FILL_L10_15 FILL_L8_4 9.85893a
Cext_237 FILL_L10_15 N 22.647a
Cext_238 FILL_L10_15 VSUBS 495.678a
Cext_239 FILL_L10_2 FILL_L10_3 49.4454a
Cext_240 FILL_L10_2 FILL_L10_7 97.7733a
Cext_241 FILL_L10_2 FILL_L50_0 5.83527a
Cext_242 FILL_L10_2 FILL_L50_1 62.109a
Cext_243 FILL_L10_2 FILL_L8_2 14.23a
Cext_244 FILL_L10_2 VSUBS 309.257a
Cext_245 FILL_L10_3 FILL_L10_4 49.4454a
Cext_246 FILL_L10_3 FILL_L10_8 97.7733a
Cext_247 FILL_L10_3 FILL_L50_1 15.5573a
Cext_248 FILL_L10_3 FILL_L50_2 46.1012a
Cext_249 FILL_L10_3 FILL_L8_3 14.23a
Cext_250 FILL_L10_3 VSUBS 309.257a
Cext_251 FILL_L10_4 FILL_L10_9 88.2754a
Cext_252 FILL_L10_4 FILL_L50_2 35.9199a
Cext_253 FILL_L10_4 FILL_L50_3 13.6346a
Cext_254 FILL_L10_4 FILL_L8_4 12.8477a
Cext_255 FILL_L10_4 VSUBS 323.755a
Cext_256 FILL_L10_5 FILL_L10_6 97.7733a
Cext_257 FILL_L10_5 FILL_L50_0 2.7402a
Cext_258 FILL_L10_5 FILL_L50_4 1.26049a
Cext_259 FILL_L10_5 FILL_L8_0 79.9977a
Cext_260 FILL_L10_5 N 19.7054a
Cext_261 FILL_L10_5 P 16.6709a
Cext_262 FILL_L10_5 VSUBS 180.379a
Cext_263 FILL_L10_6 FILL_L10_7 97.7733a
Cext_264 FILL_L10_6 FILL_L50_0 164.192a
Cext_265 FILL_L10_6 FILL_L50_4 128.456a
Cext_266 FILL_L10_6 FILL_L8_1 823.506a
Cext_267 FILL_L10_6 N 156.854a
Cext_268 FILL_L10_6 P 125.617a
Cext_269 FILL_L10_6 VSUBS 227.363a
Cext_270 FILL_L10_7 FILL_L10_8 97.7733a
Cext_271 FILL_L10_7 FILL_L50_0 11.6705a
Cext_272 FILL_L10_7 FILL_L50_1 136.912a
Cext_273 FILL_L10_7 FILL_L50_4 5.36845a
Cext_274 FILL_L10_7 FILL_L50_5 93.2632a
Cext_275 FILL_L10_7 FILL_L8_2 823.506a
Cext_276 FILL_L10_7 N 156.854a
Cext_277 FILL_L10_7 P 125.617a
Cext_278 FILL_L10_7 VSUBS 196.219a
Cext_279 FILL_L10_8 FILL_L10_9 97.7733a
Cext_280 FILL_L10_8 FILL_L50_1 31.1146a
Cext_281 FILL_L10_8 FILL_L50_2 99.819a
Cext_282 FILL_L10_8 FILL_L50_5 14.3127a
Cext_283 FILL_L10_8 FILL_L50_6 64.0869a
Cext_284 FILL_L10_8 FILL_L8_3 823.506a
Cext_285 FILL_L10_8 N 156.854a
Cext_286 FILL_L10_8 P 125.617a
Cext_287 FILL_L10_8 VSUBS 196.219a
Cext_288 FILL_L10_9 FILL_L50_2 76.9175a
Cext_289 FILL_L10_9 FILL_L50_3 28.0816a
Cext_290 FILL_L10_9 FILL_L50_6 47.4955a
Cext_291 FILL_L10_9 FILL_L50_7 14.8557a
Cext_292 FILL_L10_9 FILL_L8_4 743.508a
Cext_293 FILL_L10_9 N 137.148a
Cext_294 FILL_L10_9 P 108.946a
Cext_295 FILL_L10_9 VSUBS 259.427a
Cext_296 FILL_L50_0 FILL_L50_1 98.8543a
Cext_297 FILL_L50_0 FILL_L50_4 98.8543a
Cext_298 FILL_L50_0 FILL_L8_1 14.589a
Cext_299 FILL_L50_0 FILL_L8_2 1.34076a
Cext_300 FILL_L50_0 N 3.7676a
Cext_301 FILL_L50_0 P 6.98188a
Cext_302 FILL_L50_0 VSUBS 290.816a
Cext_303 FILL_L50_1 FILL_L50_2 98.8543a
Cext_304 FILL_L50_1 FILL_L50_5 98.8543a
Cext_305 FILL_L50_1 FILL_L8_2 13.629a
Cext_306 FILL_L50_1 FILL_L8_3 4.27668a
Cext_307 FILL_L50_1 N 3.7676a
Cext_308 FILL_L50_1 P 6.98188a
Cext_309 FILL_L50_1 VSUBS 221.532a
Cext_310 FILL_L50_2 FILL_L50_3 98.8543a
Cext_311 FILL_L50_2 FILL_L50_6 98.8543a
Cext_312 FILL_L50_2 FILL_L8_3 9.88809a
Cext_313 FILL_L50_2 FILL_L8_4 8.01762a
Cext_314 FILL_L50_2 N 3.7676a
Cext_315 FILL_L50_2 P 6.98188a
Cext_316 FILL_L50_2 VSUBS 213.969a
Cext_317 FILL_L50_3 FILL_L50_7 3.95417a
Cext_318 FILL_L50_3 FILL_L8_4 0.540388a
Cext_319 FILL_L50_3 N 0.150704a
Cext_320 FILL_L50_3 P 0.279275a
Cext_321 FILL_L50_3 VSUBS 136.134a
Cext_322 FILL_L50_4 FILL_L50_5 98.8543a
Cext_323 FILL_L50_4 FILL_L8_1 21.758a
Cext_324 FILL_L50_4 FILL_L8_2 0.616752a
Cext_325 FILL_L50_4 FILL_L8_6 11.4893a
Cext_326 FILL_L50_4 FILL_L8_7 12.985a
Cext_327 FILL_L50_4 FILL_L8_8 1.34076a
Cext_328 FILL_L50_4 N 192.39a
Cext_329 FILL_L50_4 P 25.4668a
Cext_330 FILL_L50_4 VSUBS 354.65a
Cext_331 FILL_L50_5 FILL_L50_6 98.8543a
Cext_332 FILL_L50_5 FILL_L8_10 4.27668a
Cext_333 FILL_L50_5 FILL_L8_2 12.659a
Cext_334 FILL_L50_5 FILL_L8_3 1.96727a
Cext_335 FILL_L50_5 FILL_L8_9 8.55336a
Cext_336 FILL_L50_5 N 192.428a
Cext_337 FILL_L50_5 P 25.4668a
Cext_338 FILL_L50_5 VSUBS 227.923a
Cext_339 FILL_L50_6 FILL_L50_7 98.8543a
Cext_340 FILL_L50_6 FILL_L8_11 8.55336a
Cext_341 FILL_L50_6 FILL_L8_12 8.55336a
Cext_342 FILL_L50_6 FILL_L8_3 8.3823a
Cext_343 FILL_L50_6 FILL_L8_4 6.24396a
Cext_344 FILL_L50_6 N 192.428a
Cext_345 FILL_L50_6 P 25.4668a
Cext_346 FILL_L50_6 VSUBS 215.519a
Cext_347 FILL_L50_7 FILL_L8_13 0.684269a
Cext_348 FILL_L50_7 FILL_L8_4 0.684269a
Cext_349 FILL_L50_7 N 9.19529a
Cext_350 FILL_L50_7 P 1.01867a
Cext_351 FILL_L50_7 VSUBS 137.281a
Cext_352 FILL_L8_0 FILL_L8_1 69.6968a
Cext_353 FILL_L8_0 FILL_L8_5 6.77055a
Cext_354 FILL_L8_0 N 1.61026a
Cext_355 FILL_L8_0 P 1.61026a
Cext_356 FILL_L8_0 VSUBS 279.027a
Cext_357 FILL_L8_1 FILL_L8_2 69.6968a
Cext_358 FILL_L8_1 FILL_L8_6 19.9134a
Cext_359 FILL_L8_1 FILL_L8_7 19.9134a
Cext_360 FILL_L8_1 N 3.22052a
Cext_361 FILL_L8_1 P 3.22052a
Cext_362 FILL_L8_1 VSUBS 799.508a
Cext_363 FILL_L8_10 FILL_L8_11 19.9134a
Cext_364 FILL_L8_10 FILL_L8_3 19.9134a
Cext_365 FILL_L8_10 FILL_L8_9 19.9134a
Cext_366 FILL_L8_10 VSUBS 134.885a
Cext_367 FILL_L8_11 FILL_L8_12 19.9134a
Cext_368 FILL_L8_11 FILL_L8_3 19.9134a
Cext_369 FILL_L8_11 VSUBS 134.885a
Cext_370 FILL_L8_12 FILL_L8_13 19.9134a
Cext_371 FILL_L8_12 FILL_L8_4 19.9134a
Cext_372 FILL_L8_12 VSUBS 134.885a
Cext_373 FILL_L8_13 FILL_L8_4 13.1428a
Cext_374 FILL_L8_13 VSUBS 121.249a
Cext_375 FILL_L8_2 FILL_L8_3 69.6968a
Cext_376 FILL_L8_2 FILL_L8_8 19.9134a
Cext_377 FILL_L8_2 FILL_L8_9 19.9134a
Cext_378 FILL_L8_2 N 3.22052a
Cext_379 FILL_L8_2 P 3.22052a
Cext_380 FILL_L8_2 VSUBS 799.508a
Cext_381 FILL_L8_3 FILL_L8_4 69.6968a
Cext_382 FILL_L8_3 N 3.22052a
Cext_383 FILL_L8_3 P 3.22052a
Cext_384 FILL_L8_3 VSUBS 799.508a
Cext_385 FILL_L8_4 N 1.61026a
Cext_386 FILL_L8_4 P 1.61026a
Cext_387 FILL_L8_4 VSUBS 797.575a
Cext_388 FILL_L8_5 FILL_L8_6 19.9134a
Cext_389 FILL_L8_5 VSUBS 92.8053a
Cext_390 FILL_L8_6 FILL_L8_7 19.9134a
Cext_391 FILL_L8_6 VSUBS 134.885a
Cext_392 FILL_L8_7 FILL_L8_8 19.9134a
Cext_393 FILL_L8_7 VSUBS 134.885a
Cext_394 FILL_L8_8 FILL_L8_9 19.9134a
Cext_395 FILL_L8_8 VSUBS 134.885a
Cext_396 FILL_L8_9 VSUBS 134.885a
Cext_397 N P 4.30617f
Cext_398 N VSUBS 352.388a
Cext_399 P VSUBS 45.1251a
.ENDS sense_fill_clip
